US06891066B2
3,4-Difluoro-2-[2-fluoro-4-(2-hydroxyethyl)anilino]benzoic acid was dissolved in MeOH and prepared from reaction with 2(aminooxy)ethanol and DMT-MM by the general procedure of Example 6, Step B, affording a crude yellow oil after workup which was purified by filtration through a plug of silica gel (100% EtOAc as eluant). 3,4-Difluoro-2-[2-fluoro-4-(2-hydroxyethyl)anilino]-N-(2-hydroxyethoxy)benzamide was isolated as a viscous, transparent oil (57%). 1H NMR [400 MHz, (CD3)2SO] δ 11.85 (v br s, 1 H), 8.77 (br s, 1 H), 7.44-7.37 (m, 1 H), 7.15-7.05 (m, 1 H), 7.06 (dd, J=12.5, 1.7 Hz, 1 H), 6.90 (dd, J=8.2, 1.7 Hz, 1 H), 6.81 (ddd, J=8.8, 8.8, 4.5 Hz, 1 H), 4.75 (br s, 1 H), 4.63 (t, J=5.2 Hz, 1 H), 3.86 (t, J=5.0 Hz, 2 H), 3.61-3.52 (m, 4 H), 2.66 (t, J=6.9 Hz, 2 H).

reactant | 3,4-Difluoro-2-[2-fluoro-4-(2-hydroxyethyl)anilino]benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)CCO)F | C15H12F3NO3
reactant | 2(aminooxy)ethanol | NOCCO | C2H7NO2
reactant | DMT-MM | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | MeOH | CO | CH4O
product | 3,4-Difluoro-2-[2-fluoro-4-(2-hydroxyethyl)anilino]-N-(2-hydroxyethoxy)benzamide | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)CCO)F | C17H17F3N2O4
